US04377580
A mixture of 4-amino-6-(2,3-dimethylpentanamido)quinazoline (6.75 g) and dimethyl methoxymethylenepropanedioate (6.48 g) in N,N-dimethylformamide (20 ml) was stirred at 100° C. for 1 hour and cooled to ambient temperature. Water was added to the reaction mixture. The resulting solid was separated by filtration, washed with water, and dried. There was obtained dimethyl [[6-(2,3-dimethylpentanamido)-4-quinazolinylamino]methylene]propanedioate (6.58 g). A portion of the crude product was chromatographed on silica gel with chloroform and ethyl acetate (3:1) and recrystallized from ethyl acetate to give analytically pure dimethyl [[6-(2,3-dimethylpentanamido)-4-quinazolinylamino]methylene]propanedioate (0.45 g).

reactant | 4-amino-6-(2,3-dimethylpentanamido)quinazoline | 6.75 g | NC1=NC=NC2=CC=C(C=C12)NC(C(C(CC)C)C)=O | C15H20N4O
reactant | dimethyl methoxymethylenepropanedioate | 6.48 g | COC=C(C(=O)OC)C(=O)OC | C7H10O5
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | dimethyl [[6-(2,3-dimethylpentanamido)-4-quinazolinylamino]methylene]propanedioate | 6.58 g | CC(C(=O)NC=1C=C2C(=NC=NC2=CC1)NC=C(C(=O)OC)C(=O)OC)C(CC)C | C21H26N4O5
